US08183264B2
2-Amino-N-hydroxy-nicotinamidine
To a solution of ethanol (10 mL) and 2-amino-nicotinonitrile (590 mg) were added hydroxylamine hydrochloride (510 mg) and potassium carbonate (1.4 g) at room temperature, which was stirred for 7 hours and 30 minutes under reflux. After this, the reaction mixture was stirred for 13 hours and 30 minutes at room temperature, then water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, after which the filtrate was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:methanol=10:1) to obtain the titled compound (520 mg) as a cis-trans mixture. The titled compound was used in the subsequent reaction without further purification.

reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 2-amino-nicotinonitrile | 590 mg | NC1=C(C#N)C=CC=N1 | C6H5N3
reactant | hydroxylamine hydrochloride | 510 mg | Cl.NO
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | 2-Amino-N-hydroxy-nicotinamidine | 520 mg | NC1=C(C(=N)NO)C=CC=N1 | C6H8N4O
